US07893056B2
2-Chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4(1H)-pyrimidinone hydrazone dihydrochloride (1.0828 g) and (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid diisopropyl amine salt form (1.63 g, 3.8 mmol) were dissolved in DMF (9 mL). NMM (2.1 mL, 19.1 mmol) was added, followed by HOAt (0.512 g, 3.76 mmol) and EDC (0.722 g, 3.77 mmol). After stirring overnight, the reaction mixture was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide as a reddish brown solid (0.7045 g). LCMS: (M+H−THP)+=471.1.

reactant | 2-Chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4(1H)-pyrimidinone hydrazone dihydrochloride | 1.0828 g | Cl.Cl.ClC=1NC(=C(C(N1)=NN)F)NCC1=CSC=C1
reactant | (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid diisopropyl amine salt | C(C)(C)NC(C)C.C1(CCCC1)C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O
reactant | NMM | 19.1 mmol, 2.1 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 3.76 mmol, 0.512 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 3.77 mmol, 0.722 g
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.7045 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)NCC1=CSC=C1 | C24H32ClFN6O4S
